US08309718B2
Step 2: 3-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-3-cyclobutylpropanenitrile
A mixture of 2,4-dichloropyrimidine (4.8 g, 0.032 mol), 3-cyclobutyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propanenitrile (8.10 g, 0.0269 mol), tetrakis(triphenylphosphine)palladium (2.0 g, 0.002 mol), and potassium phosphate (17 g, 0.081 mol) in 1,4-dioxane (80 mL) and water (8 mL) was heated at 100° C. overnight. After cooling to room temperature, the mixture was diluted with EtOAc, washed with water, brine, dried over MgSO4, and concentrated. The residue was purified on silica gel, eluting with 0 to 80%, to give the desired product (5.51 g, 71.2%). LCMS (M+H) 288.3.

reactant | 2,4-dichloropyrimidine | 0.032 mol, 4.8 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3-cyclobutyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propanenitrile | 0.0269 mol, 8.10 g | C1(CCC1)C(CC#N)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H24BN3O2
reactant | potassium phosphate | 0.081 mol, 17 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
solvent | water | 8 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.002 mol, 2.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-3-cyclobutylpropanenitrile | 5.51 g, 71.2% | ClC1=NC=CC(=N1)C=1C=NN(C1)C(CC#N)C1CCC1 | C14H14ClN5
